US05691351
Phenol (1.1 g, 11.8 mmol) was diluted with water (0.53 mL) and cooled to 0° C. with stirring. Ethyl 4-oxocyclohexanecarboxylate (0.94 mL, 5.87 mmol) was added followed by dropwise addition of concentrated H2SO4 (2.11 g). After 10 min the mixture was warmed to room temperature and allowed to stir for 4 hr. The mixture was then diluted with water and the product extracted with EtOAc (2×). The organic layer was washed with water, brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by chromatography (silica gel, 2:1 Hexane/EtOAc) to give 1.01 g (51%) of 4,4-bis(4-hydroxyphenyl)cyclohexane carboxylic acid ethyl ester.

reactant | Phenol | 11.8 mmol, 1.1 g | C1(=CC=CC=C1)O | C6H6O
reactant | Ethyl 4-oxocyclohexanecarboxylate | 5.87 mmol, 0.94 mL | O=C1CCC(CC1)C(=O)OCC | C9H14O3
reactant | H2SO4 | 2.11 g | OS(=O)(=O)O | H2O4S
solvent | water | 0.53 mL | O | H2O
product | 4,4-bis(4-hydroxyphenyl)cyclohexane carboxylic acid ethyl ester | 1.01 g, 51% | C(C)OC(=O)C1CCC(CC1)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C21H24O4
